US09334290B2
A suspension of 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione (3.00 g, 16.6 mmol) in xylenes (50 mL) was treated with 3-bromo-2-methylaniline (3.08 g, 16.6 mmol) and heated to reflux. After 6 h the mixture was allowed to cool to room temperature overnight. The resulting suspension was diluted with hexanes and the precipitate was collected by filtration, rinsed with hexanes and air-dried to provide 2-amino-N-(3-bromo-2-methylphenyl)-3-fluorobenzamide as a white solid (4.50 g, 84% yield). 1H NMR (400 MHz, chloroform-d) δ 7.69 (d, J=7.9 Hz, 1H), 7.65 (br. s., 1H), 7.50-7.46 (m, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.19-7.11 (m, 2H), 6.73-6.64 (m, 1H), 5.69 (br. s., 2H), 2.44 (s, 3H).

reactant | 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione | 16.6 mmol, 3.00 g | FC1=CC=CC2=C1NC(OC2=O)=O | C8H4FNO3
reactant | 3-bromo-2-methylaniline | 16.6 mmol, 3.08 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
product | 2-amino-N-(3-bromo-2-methylphenyl)-3-fluorobenzamide | 4.50 g, 84% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1F | C14H12BrFN2O
